US03936452
76 Grams (1.0 mole) of thiourea was suspended in a solution of 120 g. (1.2 moles) of acetylacetone in 2,500 ml. of ethanol. The resulting suspension was mixed with 250 ml. of concentrated hydrochloric acid, and then reacted under reflux for 2 hours. After completion of the reaction, the reaction liquid was cooled, whereby beautiful yellow needle-like crystals of 2-mercapto-4,6-dimethyl-pyrimidine hydrochloride were formed. The reaction liquid was allowed to stand overnight to sufficiently deposit the crystals, which were then recovered by filtration and dried to obtain 140 g. of 2-mercapto-4,6-dimethyl-pyrimidine hydrochloride in yield of 80 %.

reactant | thiourea | 1.0 mole | NC(=S)N | CH4N2S
reactant | acetylacetone | 1.2 moles | C(C)(=O)CC(C)=O | C5H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-mercapto-4,6-dimethyl-pyrimidine hydrochloride | yield of 80 % | Cl.SC1=NC(=CC(=N1)C)C | InChI=1S/C6H8N2S.ClH/c1-4-3-5(2)8-6(9)7-4;/h3H,1-2H3,(H,7,8,9);1H
